### PR TITLE
[Merged by Bors] - feat(RingTheory/LocalRing/Module): Finitely presented flat modules over local rings are free.

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 1]
```diff
@@ -0,0 +1,264 @@
...
+
+local notation "k" => ResidueField R
+local notation "𝔪" => maximalIdeal R
+
+variable {P} [AddCommGroup P] [Module R P] (f : M →ₗ[R] N) (g : N →ₗ[R] P)
+variable (hg : Surjective g) (h : Exact f g)
+
+theorem LocalRing.map_mkQ_eq_top {N : Submodule R M} [Module.Finite R M] :
+    N.map (Submodule.mkQ (𝔪 • ⊤)) = ⊤ ↔ N = ⊤ := by
+  constructor
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:49]: If you put `LocalRing.map_mkQ_eq_top` *after* `LocalRing.map_mkQ_eq`, its proof simply becomes
```
  convert LocalRing.map_mkQ_eq (N₁ := N) (N₂ := ⊤) le_top Module.Finite.out
  simp only [Submodule.map_top, Submodule.range_mkQ]
  ```

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 2]
```diff
@@ -0,0 +1,264 @@
...
+  · intro hN
+    have : N₂ ≤ 𝔪 • N₂ ⊔ N₁ := by
+      simpa using Submodule.comap_mono (f := Submodule.mkQ (𝔪 • N₂)) hN.ge
+    rw [sup_comm] at this
+    exact h.antisymm (Submodule.le_of_le_smul_of_le_jacobson_bot h'
+      (by rw [jacobson_eq_maximalIdeal]; exact bot_ne_top) this)
+  · rintro rfl; simp
+
+theorem LocalRing.map_mk_eq_top {N : Submodule R M} [Module.Finite R M] :
+    N.map (TensorProduct.mk R k M 1) = ⊤ ↔ N = ⊤ := by
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:69]: Isn't there a notation for this tensor product?

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 3]
```diff
@@ -0,0 +1,264 @@
...
+    rwa [← Submodule.map_comp, this, Submodule.map_top, LinearMap.range_eq_top.mpr hf,
+      LocalRing.map_mkQ_eq_top] at hN
+  · rintro rfl; rw [Submodule.map_top, LinearMap.range_eq_top]
+    exact TensorProduct.mk_surjective R M k Ideal.Quotient.mk_surjective
+
+theorem LocalRing.subsingleton_tensorProduct [Module.Finite R M] :
+    Subsingleton (k ⊗[R] M) ↔ Subsingleton M := by
+  rw [← Submodule.subsingleton_iff R, ← subsingleton_iff_bot_eq_top,
+    ← Submodule.subsingleton_iff R, ← subsingleton_iff_bot_eq_top,
+    ← LocalRing.map_mk_eq_top (M := M), Submodule.map_bot]
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:92]:
```suggestion
    ← map_mk_eq_top (M := M), Submodule.map_bot]
```

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 4]
```diff
@@ -0,0 +1,264 @@
...
+  constructor
+  · intro hN
+    have : N₂ ≤ 𝔪 • N₂ ⊔ N₁ := by
+      simpa using Submodule.comap_mono (f := Submodule.mkQ (𝔪 • N₂)) hN.ge
+    rw [sup_comm] at this
+    exact h.antisymm (Submodule.le_of_le_smul_of_le_jacobson_bot h'
+      (by rw [jacobson_eq_maximalIdeal]; exact bot_ne_top) this)
+  · rintro rfl; simp
+
+theorem LocalRing.map_mk_eq_top {N : Submodule R M} [Module.Finite R M] :
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:68]: Do you want to add some reference to the "tensor product" in the name of the theorem?

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 5]
```diff
@@ -0,0 +1,264 @@
...
+  · rintro rfl; rw [Submodule.map_top, LinearMap.range_eq_top]
+    exact TensorProduct.mk_surjective R M k Ideal.Quotient.mk_surjective
+
+theorem LocalRing.subsingleton_tensorProduct [Module.Finite R M] :
+    Subsingleton (k ⊗[R] M) ↔ Subsingleton M := by
+  rw [← Submodule.subsingleton_iff R, ← subsingleton_iff_bot_eq_top,
+    ← Submodule.subsingleton_iff R, ← subsingleton_iff_bot_eq_top,
+    ← LocalRing.map_mk_eq_top (M := M), Submodule.map_bot]
+
+theorem LocalRing.span_eq_top_of_tmul_eq_basis [Module.Finite R M] {ι}
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:94]: Some reference to the tensor product in the name?

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 6]
```diff
@@ -0,0 +1,264 @@
...
+open Function in
+/--
+Given `M₁ → M₂ → M₃ → 0` and `N₁ → N₂ → N₃ → 0`.
+If `M₁ ⊗ N₃ → M₂ ⊗ N₃` and `M₂ ⊗ N₁ → M₂ ⊗ N₂` are both injective,
+then `M₃ ⊗ N₁ → M₃ ⊗ N₂` is also injective.
+-/
+theorem lTensor_injective_of_exact_of_exact_of_rTensor_injective
+    {M₁ M₂ M₃ N₁ N₂ N₃}
+    [AddCommGroup M₁] [Module R M₁] [AddCommGroup M₂] [Module R M₂] [AddCommGroup M₃] [Module R M₃]
+    [AddCommGroup N₁] [Module R N₁] [AddCommGroup N₂] [Module R N₂] [AddCommGroup N₃] [Module R N₃]
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:111]: Why not moving these variables outside? I do not have a strong preference, I try to understand if there is a rationale here.

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 7]
```diff
@@ -0,0 +1,264 @@
...
+    (f₁ : M₁ →ₗ[R] M₂) (f₂ : M₂ →ₗ[R] M₃) (g₁ : N₁ →ₗ[R] N₂) (g₂ : N₂ →ₗ[R] N₃)
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:112]: Why not leaving `f₁, f₂, g₁, g₂` implicit? I tried in the application below and it works.

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 8]
```diff
@@ -0,0 +1,264 @@
...
+    (hb : ∀ i, 1 ⊗ₜ f i = b i) : Submodule.span R (Set.range f) = ⊤ := by
+  rw [← LocalRing.map_mk_eq_top, Submodule.map_span, ← Submodule.restrictScalars_span R k
+    Ideal.Quotient.mk_surjective, Submodule.restrictScalars_eq_top_iff,
+    ← b.span_eq, ← Set.range_comp]
+  simp only [Function.comp, mk_apply, hb, Basis.span_eq]
+
+open Function in
+/--
+Given `M₁ → M₂ → M₃ → 0` and `N₁ → N₂ → N₃ → 0`.
+If `M₁ ⊗ N₃ → M₂ ⊗ N₃` and `M₂ ⊗ N₁ → M₂ ⊗ N₂` are both injective,
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:105]:
```suggestion
Given `M₁ → M₂ → M₃ → 0` and `N₁ → N₂ → N₃ → 0`,
if `M₁ ⊗ N₃ → M₂ ⊗ N₃` and `M₂ ⊗ N₁ → M₂ ⊗ N₂` are both injective,
```

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 9]
```diff
@@ -0,0 +1,264 @@
...
+    (hfinj : Injective (f₁.rTensor N₃)) (hginj : Injective (g₁.lTensor M₂)) :
+    Injective (g₁.lTensor M₃) := by
+  rw [injective_iff_map_eq_zero]
+  intro x hx
+  obtain ⟨x, rfl⟩ := f₂.rTensor_surjective N₁ hfsurj x
+  have : f₂.rTensor _ (g₁.lTensor _ x) = 0 := by
+    rw [← hx, ← LinearMap.comp_apply, ← LinearMap.comp_apply]
+    congr 1
+    ext x y
+    simp
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:124]:
```suggestion
    simp only [← hx, ← LinearMap.comp_apply, ← LinearMap.comp_apply, LinearMap.rTensor_comp_lTensor,
      LinearMap.lTensor_comp_rTensor]
```

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 10]
```diff
@@ -0,0 +1,264 @@
...
+      simp
+    rw [← LinearMap.comp_apply, ← LinearMap.lTensor_comp, hgexact.linearMap_comp_eq_zero]
+    simp
+  obtain ⟨z, rfl⟩ := (lTensor_exact _ hgexact hgsurj _).mp this
+  obtain rfl : f₁.rTensor N₁ z = x := by
+    apply hginj
+    rw [← hy, ← LinearMap.comp_apply, ← LinearMap.comp_apply]
+    congr 1
+    ext x y
+    simp
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:141]:
```suggestion
    apply hginj
    simp only [← hy, ← LinearMap.comp_apply, ← LinearMap.comp_apply, LinearMap.lTensor_comp_rTensor,
      LinearMap.rTensor_comp_lTensor]
```

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 11]
```diff
@@ -0,0 +1,264 @@
...
+  rw [← LinearMap.comp_apply, ← LinearMap.rTensor_comp, hfexact.linearMap_comp_eq_zero]
+  simp
+
+/--
+If `M` is a finitely presented module over a local ring `(R, 𝔪)` such that `m ⊗[R] M → M` is
+injective, then `M` is free.
+-/
+theorem Module.free_of_maximalIdeal_rTensor_injective [Module.FinitePresentation R P]
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:149]: Since the proof is a bit long, can you add some comments along it to help readers?

**Review by faenuccio — COMMENTED** [review]
I have read the first 200 lines of  `Module.lean` up to the declaration `Module.free_of_lTensor_residueField_injective`

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 12]
```diff
@@ -419,6 +419,16 @@ theorem TensorProduct.map_ker :
 
 variable (M)
 
+variable (R) in
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:422]: `variable (R) in` makes the variable explicit, but there is not a global `variable {S}` living around.

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:69]: `TensorProduct.mk R k M 1 x` has the notation `1 ⊗ₜ x`, but here it is referring to the linear map.

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:94]: I think `tmul` means tensor product-multiplication in mathlib?

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean]: I renamed it to `LocalRing.map_tensorProduct_mk_eq_top`

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:107]: It pollutes the info view of other proofs.

Comment (faenuccio) [reply Mathlib/RingTheory/LocalRing/Module.lean:107]: Good point!

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 13]
```diff
@@ -81,86 +75,96 @@ theorem LocalRing.map_mk_eq_top {N : Submodule R M} [Module.Finite R M] :
...
-  let i := Finsupp.total I P R (f ∘ b)
+  -- By choosing an abitrary lift of `b` to `I → M`, we get a surjection `i : Rᴵ → M`.
+  let i := Finsupp.total I M R (f ∘ b)
   letI := inst (LinearMap.ker i)
   have hi : Surjective i := by
     rw [← LinearMap.range_eq_top, Finsupp.range_total]
     exact LocalRing.span_eq_top_of_tmul_eq_basis (R := R) (f := f ∘ b) b (fun _ ↦ hf _)
+  have : Module.Finite R (LinearMap.ker i) := by
+    constructor
+    -- rw [Submodule.fg_top]
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:159]: Is this comment left here intentionally?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:422]: I agree, but `variable (R S)` has the same effect... Not very important, at any rate.

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 14]
```diff
@@ -0,0 +1,270 @@
...
+  let I := Module.Free.ChooseBasisIndex k (k ⊗[R] M)
+  -- Let `b : I → k ⊗ M` be a `k`-basis.
+  let b : Basis I k _ := Module.Free.chooseBasis k (k ⊗[R] M)
+  letI : IsNoetherian k (k ⊗[R] (I →₀ R)) :=
+    isNoetherian_of_isNoetherianRing_of_finite k (k ⊗[R] (I →₀ R))
+  choose f hf using TensorProduct.mk_surjective R M k Ideal.Quotient.mk_surjective
+  letI inst (M) [AddCommGroup M] [Module R M] : AddGroup (k ⊗[R] M) := inferInstance
+  -- By choosing an abitrary lift of `b` to `I → M`, we get a surjection `i : Rᴵ → M`.
+  let i := Finsupp.total I M R (f ∘ b)
+  letI := inst (LinearMap.ker i)
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:153]: Both here and three lines above, what is the interest of `inst`? I commented it and nothing changed.

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 15]
```diff
@@ -0,0 +1,270 @@
...
+  have hi : Surjective i := by
+    rw [← LinearMap.range_eq_top, Finsupp.range_total]
+    exact LocalRing.span_eq_top_of_tmul_eq_basis (R := R) (f := f ∘ b) b (fun _ ↦ hf _)
+  have : Module.Finite R (LinearMap.ker i) := by
+    constructor
+    -- rw [Submodule.fg_top]
+    exact (Submodule.fg_top _).mpr (Module.FinitePresentation.fg_ker i hi)
+  -- We claim that `i` is actually a bijection.
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:161]:
```suggestion
  -- We claim that `i` is actually a bijection, hence an isomorphism exhibing `M` as the free module `R^I`.
```

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 16]
```diff
@@ -0,0 +1,270 @@
...
+  simp only [LinearMap.lTensor_zero, LinearMap.zero_apply, map_zero]
+
+theorem free_of_flat_of_localRing [Module.FinitePresentation R P] [Module.Flat R P] :
+    Module.Free R P :=
+  free_of_maximalIdeal_rTensor_injective
+    (Module.Flat.rTensor_preserves_injective_linearMap _ Subtype.val_injective)
+
+/--
+If `M → N → P → 0` is a presentation of `P` over a local ring `(R, 𝔪, k)` with
+`M` finite and `N` finite free, then `k ⊗ M → k ⊗ N` is injective implies `P` is free.
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:200]:
```suggestion
`M` finite and `N` finite free, then injectivity of `k ⊗ M → k ⊗ N` implies that `P` is free.
```

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 17]
```diff
@@ -0,0 +1,270 @@
...
+      have : Function.Exact (LinearMap.ker l).subtype
+          (l.codRestrict (LinearMap.range l) (LinearMap.mem_range_self l)) := by
+        rw [LinearMap.exact_iff, LinearMap.ker_rangeRestrict, Submodule.range_subtype]
+      have := (Exact.split_tfae this
+        Subtype.val_injective (fun ⟨x, y, e⟩ ↦ ⟨y, Subtype.ext e⟩)).out 0 1
+      exact this.mp (Module.projective_lifting_property _ _ (fun ⟨x, y, e⟩ ↦ ⟨y, Subtype.ext e⟩))
+    have : Module.Finite R (LinearMap.ker l) := by
+      refine Module.Finite.of_surjective l' ?_
+      exact Function.HasRightInverse.surjective ⟨_, DFunLike.congr_fun hl'⟩
+    -- And `0 → k ⊗ ker l → k ⊗ M → k ⊗ l(M) → 0` also splits.
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:252]: Can you explain this point a bit more? The next declaration `H` is just an injectivity, while here (and later on) the splitting plays a role. Perhaps you could introduce `l'` in the previous comment as the map `l(M) -> M` and here say that this injective map stays injective after `k ⊗ -`.

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 18]
```diff
@@ -0,0 +1,270 @@
...
+      rw [map_zero, map_zero, ← LinearMap.comp_apply, ← LinearMap.lTensor_comp,
+        l.exact_subtype_ker_map.linearMap_comp_eq_zero, LinearMap.lTensor_zero,
+        LinearMap.zero_apply]
+    -- By Nakayama's lemma, `l` is injective.
+    have : Function.Injective l := by
+      rwa [← LinearMap.ker_eq_bot, ← Submodule.subsingleton_iff_eq_bot,
+        ← LocalRing.subsingleton_tensorProduct (R := R)]
+    -- Whence `M ≃ l(M)` is projective and the result follows.
+    have := (Exact.split_tfae l.exact_map_mkQ_range this (Submodule.mkQ_surjective _)).out 0 1
+    rw [← this]
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/Module.lean:269]: Oddly enough, one cannot simply insert the RHS of the previous line in this `rw`, while passing through a `this`, works. Do you know why?

**Review by faenuccio — COMMENTED** [review]
Thanks so much for all the work!

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 17 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:252]: The logic here is `0 → ker l → M → l(M) → 0` splits => `k ⊗ ker l → k ⊗ M → k ⊗ l(M) → 0` splits => `k ⊗ ker l → k ⊗ M` injective. And we only need injectivity later on.

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 18 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:269]: This is a known quirk of the `tfae` implementation in mathlib.

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 17 above)
Comment (faenuccio) [reply Mathlib/RingTheory/LocalRing/Module.lean:252]: Oh, I see. Then I would rather say in this comment that since the first sequence splits, tensoring with `k` preserves injectivity of the first arrow in the second sequence. (which is `H`).

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 14 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:153]: It used to timeout without them. Not sure what changed.

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 19]
```diff
@@ -0,0 +1,270 @@
...
+theorem LocalRing.split_injective_iff_lTensor_residueField_injective
+    [Module.Finite R M] [Module.Finite R N] [Module.Free R N] (l : M →ₗ[R] N) :
+    (∃ l', l' ∘ₗ l = LinearMap.id) ↔ Function.Injective (l.lTensor (ResidueField R)) := by
+  constructor
+  · intro ⟨l', hl⟩
+    have : l'.lTensor (ResidueField R) ∘ₗ l.lTensor (ResidueField R) = .id := by
+      rw [← LinearMap.lTensor_comp, hl, LinearMap.lTensor_id]
+    exact Function.HasLeftInverse.injective ⟨_, LinearMap.congr_fun this⟩
+  · intro h
+    -- By the lemma above, `k ⊗ l` injective => `N ⧸ l(M)` free.
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:231]: It is directly on the next line though.
I've changed the wording a bit but I'll include the lemma name if you still think it's better to do so.

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 20]
```diff
@@ -0,0 +1,270 @@
...
+    have := Module.free_of_lTensor_residueField_injective l (LinearMap.range l).mkQ
+      (Submodule.mkQ_surjective _) l.exact_map_mkQ_range h
+    -- Hence `0 → l(M) → N → N ⧸ l(M) → 0` splits and `l(M)` is projective.
+    have : Module.Projective R (LinearMap.range l) := by
+      have := (Exact.split_tfae (LinearMap.exact_subtype_mkQ (LinearMap.range l))
+        Subtype.val_injective (Submodule.mkQ_surjective _)).out 0 1
+      obtain ⟨l', hl'⟩ := this.mp
+          (Module.projective_lifting_property _ _ (Submodule.mkQ_surjective _))
+      exact Module.Projective.of_split _ _ hl'
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:240]: I don't know why but this gives a `(kernel) invalid projection ⋯.1` error for me.

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 19 above)
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/LocalRing/Module.lean]: I think so, because in the future people might move things around and it won't be "above" anymore (and given the lack of attention that is normally taken at the doc, it is likely they would forget to update).

[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean]: To clarify, the current wording is 
```
    -- By the a previously proved lemma, `k ⊗ l` injective => `N ⧸ l(M)` free.
    have := Module.free_of_lTensor_residueField_injective l (LinearMap.range l).mkQ
```
And you suggest
```
    -- By `Module.free_of_lTensor_residueField_injective`, `k ⊗ l` injective => `N ⧸ l(M)` free.
    have := Module.free_of_lTensor_residueField_injective l (LinearMap.range l).mkQ
```

[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/LocalRing/Module.lean]: Yes

**Comment by faenuccio** [comment]
maintainer merge

**Comment by erdOne** [comment]
Thanks for the swift review!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 21]
```diff
@@ -0,0 +1,269 @@
...
+  apply @this (LinearMap.ker i).subtype i (LinearMap.exact_subtype_mkQ 𝔪)
+    (Submodule.mkQ_surjective _) (LinearMap.exact_subtype_ker_map i) hi H
+    (Module.Flat.lTensor_preserves_injective_linearMap _ Subtype.val_injective)
+  apply hi'.injective
+  rw [LinearMap.baseChange_eq_ltensor]
+  erw [← LinearMap.comp_apply (i.lTensor k), ← LinearMap.lTensor_comp]
+  rw [(LinearMap.exact_subtype_ker_map i).linearMap_comp_eq_zero]
+  simp only [LinearMap.lTensor_zero, LinearMap.zero_apply, map_zero]
+
+theorem free_of_flat_of_localRing [Module.FinitePresentation R P] [Module.Flat R P] :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/LocalRing/Module.lean:191]: I think this is true for any finite module, maybe we can add a TODO (the proof is much harder IIRC).

**Comment by riccardobrasca** [comment]
bors d+

File: Mathlib/RingTheory/LocalRing/Module.lean (hunk 21 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/Module.lean:192]: We're actually not that far away. We already have the equational criterion of flatness and finite flat = free is a (relatively) easy application of that. Anyways I added a TODO.

**Comment by erdOne** [comment]
bors merge
